US09315475B2
Step 3: Preparation of tert-butyl (2R,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}pyridin-3-yl)ethyl]morpholine-4-carboxylate
To N-(methoxycarbonyl)-β-phenyl-L-phenylalanine (1.1 eq.) in DMF (0.15 M) at rt were added HATU (1.4 eq.) and 2,6-lutidine (3 eq.). The reaction mixture was stirred for 30 min and tert-butyl (2R,5S)-2-[2-(2-aminopyridin-3-yl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate (1 eq) was added. The reaction mixture was stirred at 60° C. for 16 h and diluted with EtOAc and saturated aqueous NaHCO3. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by automated SiO2 flash chromatography system using solvent gradient of 0% to 10% MeOH/CH2Cl2 to afford the desired compound. Alternatively, DMF could be replaced as solvent by pyridine to ease coupling involving less reactive amine.

reactant | N-(methoxycarbonyl)-β-phenyl-L-phenylalanine | 1.1 eq. | COC(=O)N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | HATU | 1.4 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2,6-lutidine | 3 eq. | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyl (2R,5S)-2-[2-(2-aminopyridin-3-yl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | 1 eq | NC1=NC=CC=C1CC[C@@H]1CN([C@@H](CO1)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C23H41N3O4Si
solvent | DMF | 0.15 M | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-butyl (2R,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}pyridin-3-yl)ethyl]morpholine-4-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC=1C(=NC=CC1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C40H56N4O7Si
